US08242280B2
504 mg (1.00 mmol) of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine, 50 mg (61 μmol) of dichloro[1,1′-bis(diphenylphoshino)ferrocene]-palladium(II) dichloromethane adduct and 337 mg (1.01 mmol) of (3-bromo-phenyl)-(3-trifluoromethyl-pyridin-2-yl)-methanol were place in a microwave vial. 8 mL of acetonitrile, 3 mL of toluene and 8 mL of a saturated aqueous solution of sodium bicarbonate were added. The vial was sealed and irradiated in a Personal Chemistry® Optimizer to 125° C. for 20 min. The resulting mixture was distributed between dichloromethane and a saturated aqueous solution of sodium bicarbonate. The aqueous layer was extracted twice with dichloromethane and the combined organic phases were dried over sodium sulfate and evaporated. The resulting residue was purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford 397 mg (0.63 mmol, 63%) of {3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-(3-trifluoromethyl-pyridin-2-yl)-methanol as an ivory solid. 1H NMR (500 MHz, DMSO-d6) δ 8.45 (d, 1H), 8.65 (d, 1H), 8.19 (dd, 1H), 8.09 (d, 2H), 8.07 (d, 1H), 8.06 (s, 1H), 7.75 (s, br., 1H), 7.61-7.58 (m, 1H), 7.53 (dd, 1H), 7.45 (d, 2H), 7.43-7.40 (m, 2H), 7.35 (d(m), 1H), 7.21 (d, 1H), 7.09 (dd(d), 1H), 6.24 (d, 1H), 6.09 (d, 1H), 3.83 (s, 3H), 2.36 (s, 3H); MS: m/z 630.1 (M+H+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1.00 mmol, 504 mg | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
reactant | (3-bromo-phenyl)-(3-trifluoromethyl-pyridin-2-yl)-methanol | 1.01 mmol, 337 mg | BrC=1C=C(C=CC1)C(O)C1=NC=CC=C1C(F)(F)F | C13H9BrF3NO
reactant | acetonitrile | 8 mL | C(C)#N | C2H3N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | dichloro[1,1′-bis(diphenylphoshino)ferrocene]-palladium(II) dichloromethane adduct | 61 μmol, 50 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | {3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-(3-trifluoromethyl-pyridin-2-yl)-methanol | 0.63 mmol, 397 mg, 63% | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)C=2C=C(C=CC2)C(O)C2=NC=CC=C2C(F)(F)F)S(=O)(=O)C2=CC=C(C=C2)C | C34H26F3N3O4S
